US07332501B2
d) 4-Azidocarbonyl-4-(2-bromo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2.00 g (5.20 mmol) 4-(2-bromo-phenyl)-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester in 26 ml dichloromethane were added 0.76 ml (5.73 mmol) 1-chloro-N,N,2-trimethylpropenylamine at room temperature. After stirring for 45 min the reaction mixture was concentrated in vacuo. The residual oil was redissolved in 26 ml dry N,N-dimethylformamide and treated with 0.51 g (7.8 mmol) sodium azide. After stirring for 1 h the reaction mixture was diluted with 200 ml tert-butyl methyl ether and washed with 0.5 M aqueous sodium carbonate solution (2×50 ml). The combined aqueous layers were extracted with tert-butyl methyl ether (2×100 ml). The combined organic layers were washed with water (1×50 ml) and brine (1×50 ml), dried over sodium sulfate and concentrated in vacuo to give the crude title compound (1.76 g, 83%) as a light yellow solid.

reactant | 4-(2-bromo-phenyl)-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | 5.20 mmol, 2.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=C(C=CC=C1)Br | C17H22BrNO4
reactant | 1-chloro-N,N,2-trimethylpropenylamine | 5.73 mmol, 0.76 ml | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | sodium azide | 7.8 mmol, 0.51 g | [N-]=[N+]=[N-].[Na+]
solvent | dichloromethane | 26 ml | ClCCl | CH2Cl2
solvent | tert-butyl methyl ether | 200 ml | COC(C)(C)C | C5H12O
product | 4-Azidocarbonyl-4-(2-bromo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.76 g, 83% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=C(C=CC=C1)Br)C(=O)N=[N+]=[N-] | C17H21BrN4O3
